US06943183B2
Synthesis of N-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl]-benzenesulfonamide (Compound 38)
To a solution of 5-amino-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (100 mg, 0.288 mmol) in CH2Cl2 (2 mL) was added pyridine (47 mL, 0.576 mmol, 2 equiv) followed by benzenesulfonyl chloride (44 μL, 0.345 mmol, 1.2 equiv). The reaction was allowed to stir overnight at RT. The reaction was diluted with CH2Cl2, washed with saturated aqueous NH4Cl and brine, dried over MgSO4 to give an oil. Purification by chromatography (4% MeOH/CH2Cl2) gave the title compound as a white foam (114 mg, 0.234 mmol, 81%). The structure was confirmed by NMR and mass spectrometry. MS m/z 488 (M++H).

reactant | 5-amino-6-((S)-2-imidazol-1-yl-1-phenyl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.288 mmol, 100 mg | NC1=C2CCCC(C2=CC=C1O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C21H21N3O2
reactant | pyridine | 0.576 mmol, 47 mL, 2 equiv | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 0.345 mmol, 44 μL, 1.2 equiv | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-((S)-2-Imidazol-1-yl-1-phenyl-ethoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl]-benzenesulfonamide | 0.234 mmol, 114 mg, 81% | N1(C=NC=C1)C[C@@H](OC1=C(C=2CCCC(C2C=C1)=O)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C27H25N3O4S
